US08283353B2
4′-{[2-methyl-5-oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of 4′-{[4-(1,4-dioxaspiro[4.5]dec-8-yl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (27 g), 6N hydrochloric acid (80 mL) and tetrahydrofuran (160 mL) was stirred at 70° C. for 16 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (20 g, 80%).

reactant | 4′-{[4-(1,4-dioxaspiro[4.5]dec-8-yl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 27 g | O1CCOC12CCC(CC2)N2C=1N(C(=C(C2=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)CCC)N=C(N1)C | C31H33N5O3
reactant | hydrochloric acid | 6N, 80 mL | Cl | ClH
reactant | tetrahydrofuran | 160 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-{[2-methyl-5-oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 20 g, 80% | CC1=NN2C(N(C(C(=C2CCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)=O)C2CCC(CC2)=O)=N1 | C29H29N5O2
